Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[O:1]([C:2]([C:3](=[C:6]=[N:7][C:4]#[C:5][H:12])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8],66.78680028997769
[C:1]([C@@:2]1([H:10])[C@:3]([C:4]([H:12])([H:13])[H:14])([H:11])[C@:5]1([O:6][H:16])[H:15])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3][C@:5]1([O:6][H:16])[H:15])([H:7])([H:8])[H:9].[C:4]([H:11])([H:12])([H:13])[H:14],89.70919129288478
[C-:4]#[O+:5].[C:1]([C:2](=[O:3])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10],36.48773394362632
[C+:1](=[C:2]=[C-:3][C:4]([N:5]([H:7])[H:10])([H:8])[H:9])[H:6]>>[C:1](#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6],11.5253691764783
[C:1]([C@:2]12[C@:3]([H:11])([C:4]1([H:13])[H:14])[C@:6]([O:7][H:12])([H:15])[O:5]2)([H:8])([H:9])[H:10]>>[C:1]([C:2]1([O:5][C:6](=[O:7])[H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10],67.3551516595964
[O:1]=[C:2]([N+:6]#[C-:5])[H:7].[O:3]=[C:4]([H:8])[H:9]>>[O:1]=[C:2]([O:3][C:4]([C:5]#[N:6])([H:8])[H:9])[H:7],26.459074193502595
[N:1]([C:2](=[O:3])[C:4](/[C:6]([O:5][H:12])=[N:7]/[H:13])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9],109.56857266251606
[C:1]([O:2][N:4]=[C:3]([C:5]([H:10])([H:11])[H:12])[C:6]([H:13])([H:14])[H:15])([H:7])([H:8])[H:9]>>[C:1]([O:2]/[C:3](=[N:4]/[C:5]([H:10])([H:11])[H:12])[C:6]([H:13])([H:14])[H:15])([H:7])([H:8])[H:9],77.2110606561132
[C:1]([C@@:2]1([H:11])[O:3][C:4](=[O:5])[C:6]([H:12])=[C:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:7]=[C:6]([H:12])[C:4](=[O:5])[O:3]1)([H:8])([H:9])[H:10].[H:11][H:13],82.98176256789151
[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4](=[C:5]=[O:6])[H:13])[H:11])([H:8])([H:9])[H:10].[N:7]([H:14])([H:15])[H:16],71.9801194351402
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([O:5][H:16])([H:14])[H:15])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([C:6]#[N:7])[C:3]([H:11])([H:13])[C:4]1([H:14])[H:15])([H:8])([H:9])[H:10].[O:5]([H:12])[H:16],86.864033023927
[C:5](=[O:6])([H:10])[H:11].[N:1](=[c:2]1[c:3]([H:8])[c:4]1[H:9])[H:7]>>[N:1](=[C:2]1/[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])([H:11])[O:6]1)\[H:7],29.963300132799098
[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[C:6]([H:13])([H:14])[N:7]1[H:15]>>[O:1]=[C:2]([N:7]([C:6]([C:5](/[C:4](=[N:3]/[H:8])[H:9])([H:11])[H:12])([H:13])[H:14])[H:15])[H:10],88.53366385215479
[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[O:3][C-:4]=[O+:5][C:6]1=[C:7]([H:12])[H:13])([H:8])([H:9])[H:10],85.03178994190691
[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:15])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:3](\[N:4]=[C:5](/[O:6][H:13])[H:15])[H:12])[H:11])([H:7])([H:8])[H:9].[H:10][H:14],85.2105575576606
[C:1]([C@@:2]1([H:11])[O:3][C:4](=[O:5])[C:6]([H:12])=[C:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:10])[H:13])[H:12])[H:11])([H:8])[H:9],74.97027892358149
[O:1]([C:2]([C:6]([C:5]([O+:4]=[C:3]([H:11])[H:12])([H:13])[H:14])=[C-:7][H:15])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]([O:4][C:5]([C:6]#[C:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8],18.401113848029198
[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8]>>[H:8][H:11].[O+:1]#[C:2][C@@:3]1([H:9])[C-:4]([H:10])[N+:5]1=[C:6]([O-:7])[H:12],108.765332369358
[C:1]([C@:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:17])[C:6]([H:15])=[C:7]1[H:16])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],73.30277246841788
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:10])[H:12])[O:4][H:13])([H:7])([H:8])[H:9].[C:5](#[N:6])[H:11],87.9138737601727
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C@@:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C:5](=[C:6]([H:18])[H:19])[H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10].[O:7]([H:20])[H:21],57.0136525576759
[C:1]([C:5](=[O:6])[H:14])([H:7])([H:8])[H:9].[C:2]1([H:10])=[C:4]([H:13])[C:3]1([H:11])[H:12]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9],49.94805150983593
[C:1]([C@@:2]1([H:11])[C@@:3]2([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])=[C:6]([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[C:7](\[C:3](=[C:4]([H:13])[H:14])[H:12])[H:17])[H:11])([H:8])([H:9])[H:10].[C:5](#[C:6][H:16])[H:15],88.2995311126205
[C:1](=[C:2]=[N:3][H:11])([H:8])[H:10].[O:4]([C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])[H:9]>>[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10],37.77307895732391
